US08067445B2
Synthesis of (2′-Ethylaminomethyl-5-fluoro-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid (Compound 1-162)
A solution of {2′-[(benzyloxycarbonyl-ethyl-amino)-methyl]-5-fluoro-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid (0.025 g, 0.05 mmol) and 10% palladium on carbon (catalytic) in MeOH was hydrogenated under a balloon of H2 at room temperature for 2 hours. The mixture was filtered through a pad of Celite, and the filtrate was concentrated to give the title compound. M+H is 382.

reactant | {2′-[(benzyloxycarbonyl-ethyl-amino)-methyl]-5-fluoro-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid | 0.05 mmol, 0.025 g | C(C1=CC=CC=C1)OC(=O)N(CC)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC(=C1)F)CC(=O)O | C26H23F4NO4
catalyst | palladium on carbon | [Pd] | Pd
solvent | MeOH | CO | CH4O
product | (2′-Ethylaminomethyl-5-fluoro-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid | C(C)NCC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC(=C1)F)CC(=O)O | C18H17F4NO2
